US07812022B2
To the solution of N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide (0.10 g) in isopropanol (6 mL) was added 3-{[2-(dimethylamino)ethyl]oxy}aniline (0.06 g) and 3 drops of concentrated hydrochloric acid. The reaction was microwaved in a sealed tube at 180° C. for 10 min. The isopropanol was removed by rotovaporation and the residue was treated with sat. NaHCO3 (5 mL), extracted with EtOAc (2×5 mL), and dried (Na2SO4). Concentration and purification with column chromatography afforded the title compound as a white solid (0.09 g, 70% yield). 1H NMR (400 MHz, CDCl3) 8 ppm 2.22 (s, 6H), 2.63 (t, J=5.6 Hz, 2H), 391 (t, J=5.6 Hz, 2H), 6.48 (dd, J=8.0, 1.7 Hz, 1H), 6.77 (td, J=7.2, 4.9 Hz, 1H), 6.82-6.85 (m, 1H), 6.86 (s, 1H), 6.89-6.94 (m, 3H), 7.00-7.07 (m, 1H), 7.21-7.32 (m, 4H), 7.43 (s, 1H), 7.79 (d, J=7.9 Hz, 1H), 7.90 (s, 1H), 8.33 (d, J=6.8 Hz, 1H), 8.35-8.38 (m, 1H), 8.45 (s, 1H); ESIMS (M+H)+=624.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 0.10 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C(=CC=C2)F)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H13ClF3N5O
reactant | 3-{[2-(dimethylamino)ethyl]oxy}aniline | 0.06 g | CN(CCOC=1C=C(N)C=CC1)C | C10H16N2O
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
product | N-[3-(3-{2-[(3-{[2-(dimethylamino)ethyl]oxy}phenyl)amino]-4-pyrimidinyl}-4-fluoropyrazolo[1,5-a]pyridin-2-yl)phenyl]-2,6-difluorobenzamide | 0.09 g, 70% yield | CN(CCOC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C(=CC=C2)F)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O)C | C34H28F3N7O2
